US07968573B2
A mixture of 1.51 g of 2-amino-3-methylbenzoic acid, 1.0 g of acetic anhydride and 20 ml of tetrahydrofuran was stirred at 80° C. for 13 hours. The reaction mixture was allowed to cool to room temperature, poured into water, and extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was washed with ethyl acetate to obtain 0.72 g of 2-acetylamino-3-methylbenzoic acid of the formula:

reactant | 2-amino-3-methylbenzoic acid | 1.51 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | acetic anhydride | 1.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-acetylamino-3-methylbenzoic acid | 0.72 g | C(C)(=O)NC1=C(C(=O)O)C=CC=C1C | C10H11NO3
